US05606051
Ethyl-1,5-dimethylpyrazole-3-carboxylate.
Ethyl 2,4-dioxovalerate (5.6 ml, 40 mM) was dissolved in glacial acetic acid (35 ml) before cooling the reaction temperature to 8°-10° C. Methylhydrazine (2.0 ml, 38 mM) was added dropwise so that the reaction temperature did not rise above 15° C. After stirring at room temperature for 90 minutes the reaction was poured into ethyl acetate and water. The organic phase was washed with saturated sodium bicarbonate solution, water and brine before drying (MgSO4). Purification was accomplished was by chromatography on silica gel (10×4.5 cm) loading in dichloromethane and eluting with 50% ethyl acetate in hexane. Evaporation of solvent gave the title compound as a coloured oil which crystallised on standing (4.69 g); νmax (CH2Cl2) 1717 and 1223 cm-1 ; δH (CDCl3) 1.39 (3H, t, J 7.13 Hz), 2.30 (3H, s), 3.85 (3H, s), 4.39 (2H, q, J 7.21 Hz), 6.57 (1H, s); E.I m/e 168 (25% ).

reactant | Ethyl 2,4-dioxovalerate | 40 mM, 5.6 ml | O=C(C(=O)OCC)CC(C)=O | C7H10O4
reactant | Methylhydrazine | 38 mM, 2.0 ml | CNN | CH6N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | Ethyl-1,5-dimethylpyrazole-3-carboxylate | C(C)OC(=O)C1=NN(C(=C1)C)C | C8H12N2O2
